US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}(4,5-DIMETHOXY-2-NITROBENZYL)AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 4,5-dimethoxy-2-nitro-benzaldehyde according to the procedure of Example 66. MS (ES) m/z 574.1.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 4,5-dimethoxy-2-nitro-benzaldehyde | COC1=CC(=C(C=O)C=C1OC)[N+](=O)[O-] | C9H9NO5
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}(4,5-DIMETHOXY-2-NITROBENZYL)AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-])C(F)(F)F | C32H26F3N3O4
